US05624943
244 mg of palladium acetate, 3.66 g of potassium carbonate and 3.4 g of tetrabutylammonium bromide are added to a solution of 3.87 g of 5-(2-iodo-3-methoxy-6-pyridyl)-5-oxopentanoic acid methyl ester and 1.87 ml of acrylic acid methyl ester in 10 ml of dimethylformamide, and the suspension is heated to 100° C. with stirring and under argon atmosphere for 5 hours. The solvent is removed in a vacuum, the residue is mixed with water, shaken out with ethyl acetate, the organic phase is dried on sodium sulfate and concentrated by evaporation. The crude product is chromatographed on silica gel with hexane/0-15% ethyl acetate. 1.89 g of 5-{3-methoxy-2-[2-methoxycarbonyl-(1E)-1-ethenyl-]-6-pyridyl}-5-oxopentanoic acid methyl ester of melting point 87°-89° C. is obtained.

reactant | potassium carbonate | 3.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-(2-iodo-3-methoxy-6-pyridyl)-5-oxopentanoic acid methyl ester | 3.87 g | COC(CCCC(=O)C1=CC=C(C(=N1)I)OC)=O | C12H14INO4
reactant | acrylic acid methyl ester | 1.87 ml | COC(C=C)=O | C4H6O2
catalyst | tetrabutylammonium bromide | 3.4 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 244 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-{3-methoxy-2-[2-methoxycarbonyl-(1E)-1-ethenyl-]-6-pyridyl}-5-oxopentanoic acid methyl ester | 1.89 g | COC(CCCC(=O)C1=CC=C(C(=N1)\C=C\C(=O)OC)OC)=O | C16H19NO6
